US08877772B2
Preparation of 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazole (Intermediate CG)
2-(4-Bromo-phenyl)-1H-imidazole (300 mg, 1.3 mmol), bis(pinacolato)diboron (376 mg, 1.48 mmol), KOAc (400 mg, 4.03 mmol) and PdCl2(dppf) CH2Cl2 (50 mg, 0.067 mmol) were combined in DMSO (8 ml) and stirred t 80° C. overnight. EtOAc was added, washed with water, dried, evaporated and purified by silica gel chromatography eluting with 0-5% MeOH:DCM to give 116 mg (36%) of the title compound. 1H NMR (CDCl3, 300 MHz): δ 7.86 (s, 4H), 7.18 (s, 2H), 1.36 (s, 12H).

reactant | 2-(4-Bromo-phenyl)-1H-imidazole | 1.3 mmol, 300 mg | BrC1=CC=C(C=C1)C=1NC=CN1 | C9H7BrN2
reactant | bis(pinacolato)diboron | 1.48 mmol, 376 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 4.03 mmol, 400 mg | CC(=O)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) CH2Cl2 | 0.067 mmol, 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazole | 116 mg, 36% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1NC=CN1)C | C15H19BN2O2
